US08541588B2
4-(5-Chloro-2-methoxyphenyl)piperidine
A solution of benzyl 4-(5-chloro-2-methoxyphenyl)piperidine-1-carboxylate (Preparation 234, 73 g, 0.2 mol) in concentrated hydrochloric acid (200 ml) was refluxed with stirring for 2 hours before concentrating in vacuo. Water (100 ml), sodium hydroxide (10 M aqueous solution, 20 ml) and chloroform (200 ml) were added to the residue. The aqueous layer was extracted with chloroform (2×200 ml). The combined organic layers were washed with water (200 ml), saturated aqueous sodium chloride solution (200 ml), dried over sodium sulphate, filtered through silica gel (100 g, 40/63 μm) and evaporated in vacuo to afford the title compound as white crystals, 40 g, 89% yield.

reactant | benzyl 4-(5-chloro-2-methoxyphenyl)piperidine-1-carboxylate | 0.2 mol, 73 g | ClC=1C=CC(=C(C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)OC | C20H22ClNO3
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 4-(5-Chloro-2-methoxyphenyl)piperidine | 89% yield | ClC=1C=CC(=C(C1)C1CCNCC1)OC | C12H16ClNO
